US03984465
Step C: Tert-butyl (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetate
A mixture of 2-cyclopentyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (2.98 g., 0.01 mole), tert.-butylbromoacetate (2.15 g., 0.011 mole), potassium carbonate (2.76 g., 0.02 mole) and dimethylformamide (15 ml.) is stirred at 25° for 1 hour then poured into water (50 ml.) the tert.-butyl (1-oxo-2-cyclopentyl-6,7-dichloro-5-indanyloxy)acetate which separates is filtered, rinsed with water and dried.

reactant | 2-cyclopentyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.01 mole, 2.98 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C15H16Cl2O2
reactant | tert.-butylbromoacetate | 0.011 mole, 2.15 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | potassium carbonate | 0.02 mole, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert.-butyl (1-oxo-2-cyclopentyl-6,7-dichloro-5-indanyloxy)acetate | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OC(C)(C)C)C1CCCC1 | C20H24Cl2O4
solvent | water | 50 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Tert-butyl (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetate | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OC(C)(C)C)(C)C1CCCC1 | C21H26Cl2O4
